US05936051
2) Preparation of 4-trifluoromethylbenzylcyclopentadienyl lithium
2.5 g of 4-trifluoromethylbenzylcyclopentadiene (10 mmoles) and 30 ml of hexane are charged, in an argon atmosphere, into a tailed test-tube equipped with magnetic stirring. The same procedure is then carried out as in paragraph 2 of example 1 above, using 4.5 ml of a 2.5 M solution of butyllithium in hexane. At the end, 2.1 g of the desired salt are obtained with a yield of 80%.

reactant | 4-trifluoromethylbenzylcyclopentadiene | 10 mmoles, 2.5 g | FC(C1=CC=C(CC2=CC=CC2)C=C1)(F)F | C13H11F3
reactant | butyllithium | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 30 ml | CCCCCC | C6H14
product | 4-trifluoromethylbenzylcyclopentadienyl lithium | 2.1 g, yield of 80% | FC(C1=CC=C(CC2(C=CC=C2)[Li])C=C1)(F)F | InChI=1S/C13H10F3.Li/c14-13(15,16)12-7-5-11(6-8-12)9-10-3-1-2-4-10;/h1-8H,9H2;
